US07700784B2
To a suspension of magnesium turnings (5.11 g) in anhydrous tetrahydrofuran (40 mL) is added 1,2-dibromoethane (0.106 mL; 1.2 mmol). The suspension is cooled to 12° C. and 6 mL of a solution of 1-bromo-4-(diethoxymethyl)benzene (53.6 g; 200 mmol) in anhydrous tetrahydrofuran (120 mL) and a second portion of 1,2-dibromoethane (0.106 mL; 1.2 mmol) are added. After the reaction starts the remainder of the solution of 1-bromo-4-(diethoxymethyl)benzene is added over 90 minutes. The resulting mixture is further stirred at 20 to 25° C. for 2.5 hours. The mixture is diluted with anhydrous tetrahydrofuran to a total volume of 250 mL. The concentration of 4-(diethoxymethyl)phenylmagnesium bromide in the solution above the excess of magnesium turnings is about 0.78 M. In another flask are added to dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.012 g; 0.015 mmol) a 0.5 M zinc chloride solution in tetrahydrofuran (0.6 mL; 0.30 mmol) and a solution of a mixture of 5-(2-bromophenyl)-2-(tetrahydropyran-2-yl)-2H-tetrazole and 5-(2-bromophenyl)-1-(tetrahydropyran-2-yl)-1H-tetrazole (4.99 g; 14.3 mmol) in tetrahydrofuran (30 mL). To the stirred resulting yellow-orange solution is added at room temperature 22.2 mL of the above 0.78 M 4-(diethoxymethyl)phenylmagnesium bromide solution (17.3 mmol) over two hours. The resulting orange solution is further stirred at room temperature for 18 hours. After that, no more starting material could be detected by thin layer chromatography. The mixture is cooled to about 0° C. and a solution of sodium hydrogencarbonate (2.0 g) in water (25 mL) and ethyl acetate (30 mL) are added. The aqueous phase is separated and extracted with ethyl acetate (40 mL). The combined organic phases are washed with a solution of sodium hydrogencarbonate (2.0 g) in water (25 mL) and twice with water (25 mL) before they are evaporated in vacuo. The resulting orange oil is purified by column chromatography on silica gel eluting with a 1:4 mixture of ethyl acetate and hexane (in the presence of 0.3 volume-% of triethylamine) to afford the main isomer (N2-isomer) 5-(4′-diethoxymethyl-biphenyl-2-yl)-2-(tetrahydro-pyran-2-yl)-2H-tetrazole as a pale yellow oil.

reactant | magnesium | 5.11 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 1.2 mmol, 0.106 mL | BrCCBr | C2H4Br2
reactant | 1-bromo-4-(diethoxymethyl)benzene | 200 mmol, 53.6 g | BrC1=CC=C(C=C1)C(OCC)OCC | C11H15BrO2
reactant | 1,2-dibromoethane | 1.2 mmol, 0.106 mL | BrCCBr | C2H4Br2
reactant | 4-(diethoxymethyl)phenylmagnesium bromide | C(C)OC(C1=CC=C(C=C1)[Mg]Br)OCC
reactant | 5-(2-bromophenyl)-2-(tetrahydropyran-2-yl)-2H-tetrazole | BrC1=C(C=CC=C1)C=1N=NN(N1)C1OCCCC1 | C12H13BrN4O
reactant | 5-(2-bromophenyl)-1-(tetrahydropyran-2-yl)-1H-tetrazole | 14.3 mmol, 4.99 g | BrC1=C(C=CC=C1)C1=NN=NN1C1OCCCC1 | C12H13BrN4O
reactant | 4-(diethoxymethyl)phenylmagnesium bromide | 17.3 mmol, above 0.78 M | C(C)OC(C1=CC=C(C=C1)[Mg]Br)OCC
reactant | sodium hydrogencarbonate | 2.0 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.015 mmol, 0.012 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | zinc chloride | 0.5 M | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 0.30 mmol, 0.6 mL | O1CCCC1 | C4H8O
product | 5-(4′-diethoxymethyl-biphenyl-2-yl)-2-(tetrahydro-pyran-2-yl)-2H-tetrazole | C(C)OC(C1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C1OCCCC1)OCC | C23H28N4O3
